US04232032
Solid sodium nitrite (1.34 g.) was added in portions to a boiling suspension of 8-amino-6-methyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin (4.7 g.) in a mixture of absolute ethanol (20 ml.), toluene (5 ml.) and concentrated sulphuric acid (1.34 ml.). The mixture was heated under reflux for 3 hours, cooled to ambient temperature and evaporated to dryness under reduced pressure. The oily residue was triturated with petroleum ether (b.p. 60°-80° C.) and filtered, and the solid was crystallised from aqueous ethanol to give 6-methyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin m.p. 134°-135° C.

reactant | sodium nitrite | 1.34 g | N(=O)[O-].[Na+]
reactant | 8-amino-6-methyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin | 4.7 g | NC1=CC(=CC=2C(OC(OC21)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C | C11H9Cl6NO2
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sulphuric acid | 1.34 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 6-methyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin | CC=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1 | C11H8Cl6O2
